US09120822B2
Bis(cyclopentadienyl)zirconium hydrochloride (814 mg, 3.2 mmol, 1.5 eq) is added at room temperature to a stirred solution of 3-chloro-6-methoxy-[1,5]naphthyridine-4-carboxylic acid amide (500 mg, 2.1 mmol, 1.0 eq) in tetrahydrofuran (35 mL). After 10 minutes stirring at room temperature, the reaction mixture is filtered through decalite, concentrated and purified by column chromatography (silica gel, eluent: ethyl acetate:petroleum ether, 1:8, v/v) to afford 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbaldehyde as an off-white solid (185 mg, 28% yield).

reactant | 3-chloro-6-methoxy-[1,5]naphthyridine-4-carboxylic acid amide | 2.1 mmol, 500 mg, 1.0 eq | ClC=1C=NC2=CC=C(N=C2C1C(=O)N)OC | C10H8ClN3O2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
catalyst | Bis(cyclopentadienyl)zirconium hydrochloride | 3.2 mmol, 814 mg, 1.5 eq | Cl.C1(C=CC=C1)[Zr]C1C=CC=C1
product | 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbaldehyde | 185 mg, 28% yield | ClC=1C=NC2=CC=C(N=C2C1C=O)OC | C10H7ClN2O2
